US04634713
A mixture of 4213 g of 1-(p-acetamidophenyl)-2-imidazolidinone in 39,000 ml of water and 2930 g of 5% rhodium on carbon 50% wet with water is hydrogenated at 40°. The hydrogenation mixture is filtered, and the filtrate is concentrated in vacuo to dryness. The resulting solid is air-dried and then powdered. The crude product is recrystallized from 12,000 ml of acetone to give 1-(4-acetamidocyclohexyl)-2-imidazolidinone, m.p. 211°-230° as a mixture of cis and trans isomers.

reactant | 1-(p-acetamidophenyl)-2-imidazolidinone | 4213 g | C(C)(=O)NC1=CC=C(C=C1)N1C(NCC1)=O | C11H13N3O2
solvent | water | 39,000 ml | O | H2O
catalyst | rhodium on carbon | 2930 g | [Rh] | Rh
product | 1-(4-acetamidocyclohexyl)-2-imidazolidinone | C(C)(=O)NC1CCC(CC1)N1C(NCC1)=O | C11H19N3O2
